US05132310
rac-3-[(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-4-hydroxy-5-methoxybenzaldehyde.
Rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 2.3 g, was reacted with 4.17 g (15 mmol) of 5-iodovanilline as described in example 1, but extending the reaction time to 4.5 hours. After the usual workup, the residue was chromatographed over 150 g of silica gel using 10% (V/V) of ethyl acetate in methylene chloride. Crystallization from ether/hexane and recrystallization from ethyl acetate/hexane yielded colorless crystals with m.p. 158°-160°.

reactant | Rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 5-iodovanilline | 15 mmol, 4.17 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
product | rac-3-[(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-4-hydroxy-5-methoxybenzaldehyde | OC=1C(=C(C2=C(CCC(O2)(C)C#CC=2C=C(C=O)C=C(C2O)OC)C1C)C)C | C23H24O5
